US09062070B2
5-Ethenyl-2-benzofuran-1(3H)-one (28.4 g, 177 mmol) was dissolved in DCM (400 mL) then mCPBA (47.7 g, 213 mmol) was added. The mixture was stirred at room temperature overnight. Some starting olefin remained. Another 25 g of mCPBA was added and the mixture was stirred overnight. The mixture was poured into ice cold Na2SO3 solution (saturated). The layers were separated and the organic layer was washed with 5% NaOH solution, brine, then was dried (MgSO4). The crude product was purified by MPLC (330 g column, eluting with 40% EtOAc/hexane, 2 L, then with 45% EtOAc/hexane, 2 L, to afford 5-(oxiran-2-yl)-2-benzofuran-1(3H)-one. LC-MS: M+1=177.

reactant | 5-Ethenyl-2-benzofuran-1(3H)-one | 177 mmol, 28.4 g | C(=C)C1=CC2=C(C(OC2)=O)C=C1 | C10H8O2
reactant | mCPBA | 213 mmol, 47.7 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | mCPBA | 25 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
product | 5-(oxiran-2-yl)-2-benzofuran-1(3H)-one | O1C(C1)C1=CC2=C(C(OC2)=O)C=C1 | C10H8O3
